US09337430B2
6-[1,1′;3′,1″]-Terphenyl-5′-yl-6H-benzo[c][2,6]naphthyridin-5-one
19.6 g (100 mmol) of benzo[c]-2,6-napthyridinone, 106 g (300 mmol) of 5′-iodo-[1,1′;3′,1″]terphenyl and 2.3 g (20 mmol) of L-proline are stirred at 150° C. in 100 ml for 30 h The solution is diluted with water, extracted twice with ethyl acetate, the combined organic phases are dried over Na2SO4 and evaporated in a rotary evaporator. The residue is purified by chromatography (EtOAc/hexane: 2/3). The yield is 25 g (59 mmol) 60% of theory.

reactant | benzo[c]-2,6-napthyridinone | 100 mmol, 19.6 g | C1(C=2C3=C(N=CC2C=CN1)C=CC=C3)=O | C12H8N2O
reactant | 5′-iodo-[1,1′;3′,1″]terphenyl | 300 mmol, 106 g | IC=1C=C(C=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C18H13I
reactant | L-proline | 20 mmol, 2.3 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | water | O | H2O
product | 6-[1,1′;3′,1″]-Terphenyl-5′-yl-6H-benzo[c][2,6]naphthyridin-5-one | C1(=CC=CC=C1)C1=CC(=CC(=C1)N1C(C2=CC=NC=C2C2=C1C=CC=C2)=O)C2=CC=CC=C2 | C30H20N2O
